US08735376B2
4-acetamidophenyl carbonochloridate
A solution of 4-acetominophenol (75.0 g), phosgene solution (450 mL, 20% in toluene), and ethyl acetate (1875 mL) was cooled to 0° C. N,N-Diethylaniline (94.7 mL) was added dropwise and the reaction was stirred at 0° C. for two hours. The reaction was then allowed to warm to room temperature. An aliquot for NMR analysis was taken four hours post addition. The reaction remained incomplete and was stirred at room temperature overnight. An-aliquot for NMR analysis after overnight stirring indicated no change had occurred in the reaction since the previous aliquot. The reaction was heated to 40° C. until phosgene gas evolution ceased (approximately 30 minutes). The reaction was cooled to room temperature and was then filtered. The filter cake was washed with ethyl acetate. NMR analysis of the filtered solid indicated it was N,N-diethylaniline related material. The filtrate was washed was washed with 0.1N HCl (375 mL). The organic layer was dried over sodium sulfate, filtered, and concentrated in vacuo to afford a pale yellow solid. The solid was triturated using ether (375 mL) for twenty minutes at room temperature. The solid was filtered and washed with ether. NMR analysis indicated product with residual ether remaining. The solid was dried overnight in a vacuum oven at ambient temperature to afford 77.55 g (73.3% yield). NMR and MS analysis indicated product. 1H NMR (300 MHz, CDCl3+DMSO-d6): δ 9.18 (s, 1H), 7.62 (d, 2H), 7.15 (d, 2H), 2.18 (s, 3H); MS m/z: 214 (M+H)+.

reactant | 4-acetominophenol | 75.0 g | N(C(=O)C)C1=CC=C(C=C1)O | C8H9NO2
reactant | phosgene | 450 mL | C(=O)(Cl)Cl | CCl2O
reactant | N,N-Diethylaniline | 94.7 mL | C(C)N(C1=CC=CC=C1)CC | C10H15N
solvent | ethyl acetate | 1875 mL | C(C)(=O)OCC | C4H8O2
product | 4-acetamidophenyl carbonochloridate | 73.3% yield | C(OC1=CC=C(C=C1)NC(C)=O)(=O)Cl | C9H8ClNO3
